US04717724
6-Hydroxy-2-(4-chlorobenzoyl)-1,2,3,4-tetrahydroisoquinoline
1.2 g of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline are suspended in 50 ml of methylene chloride, 1.2 ml of triethylamine are added, and a solution of 1.4 g of 4-chlorobenzoyl chloride in 10 ml of methylene chloride is added dropwise with stirring and cooling. After standing overnight, the mixture is extracted by shaking with 2N hydrochloric acid and water, and the organic phase is dried and evaporated in a rotary evaporator. A colorless oil remains, and this crystallizes on trituration with ethyl acetate.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 1.2 g | OC=1C=C2CCNCC2=CC1 | C9H11NO
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 1.4 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-2-(4-chlorobenzoyl)-1,2,3,4-tetrahydroisoquinoline | OC=1C=C2CCN(CC2=CC1)C(C1=CC=C(C=C1)Cl)=O | C16H14ClNO2
